US04415572
A mixture of 1.22 ml of acetic anhydride and 0.5 ml of formic acid was stirred at 50°-60° C. for 2 hours. After cooling to room temperature, 1.0 g of 5-piperazinyl-3,4-dihydrocarbostyril was added portionwise to the reaction mixture, during which operation the product was solidified. To the solids was added 5 ml of dichloromethane and the mixture was stirred at room temperature for 2 hours. Then, a large amount of water was added thereto and the mixture was extracted with chloroform. After washing with water, the extract was dried over anhydrous sodium sulfate followed by removal of chloroform by distillation. Recrystallization of the residue from methanol gave 420 mg of 5-(4-formyl-1-piperazinyl)-3,4-dihydrocarbostyril, m.p. 263°-265° C., colorless granules.

reactant | acetic anhydride | 1.22 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 0.5 ml | C(=O)O | CH2O2
reactant | 5-piperazinyl-3,4-dihydrocarbostyril | 1.0 g | N1(CCNCC1)C1=C2CCC(NC2=CC=C1)=O | C13H17N3O
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-(4-formyl-1-piperazinyl)-3,4-dihydrocarbostyril | 420 mg | C(=O)N1CCN(CC1)C1=C2CCC(NC2=CC=C1)=O | C14H17N3O2
